US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-methylphenyl)urea
Methyl 5-amino-2-methylbenzoate (223 mg) was dissolved in tetrahydrofuran (30 ml), under ice-cooling triphosgene (135 mg) was added, triethylamine (116 μl) was added thereto five times every 3 minutes, the mixture was stirred for 10 minutes at same temperature. Subsequently, a solution of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (500 mg) in tetrahydrofuran (20 ml) was added dropwise, stirred for 30 minutes at same temperature, and then stirred for 3 hours at room temperature. The reaction mixture was concentrated under reduced pressure, water (50 ml) was added, and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography(chloroform:ethyl acetate=10:1), to thereby obtain 271 mg of the titled compound.

reactant | Methyl 5-amino-2-methylbenzoate | 223 mg | NC=1C=CC(=C(C(=O)OC)C1)C | C9H11NO2
reactant | triphosgene | 135 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 116 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 500 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)N)=O)C | C24H29N3O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-methylphenyl)urea | 271 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)NC2=CC(=C(C=C2)C)C(=O)OC)=O)C | C34H38N4O6
